US05662911
1. N-(tert.-butoxycarbonyl)-2-bromoethylamine
10.2 g (50 mmol) of 2-bromoethylamine hydrobromide (manufactured by Aldrich, No. B6,570-5) are dissolved in 100 ml of dioxane/water 1/1 (v/v) and 15 g (20.6 ml) of triethylamine are added. The mixture is then cooled to 0° C. and a solution of 10.9 g (50 mmol) of di-tert.-butyldicarbonate in 15 ml of dioxane are added dropwise under stirring. The reaction mixture is allowed to slowly reach room temperature and stirring is continued for 18 h. The solvent is removed on the rotary evaporator and the remainder is taken up in 200 ml of acetic ester. It is then washed three times with 100 ml of saturated sodium bicarbonate solution each time and subsequently twice, each time with 100 ml of water. The organic solution is dried with approx. 20 g of Na2SO4, the solvent is removed on the rotary evaporator and the oily product is dried for 3 h at 40° C. in a high vacuum.

reactant | 2-bromoethylamine hydrobromide | 50 mmol, 10.2 g | Br.BrCCN
reactant | triethylamine | 20.6 ml, 15 g | C(C)N(CC)CC | C6H15N
reactant | di-tert.-butyldicarbonate | 50 mmol, 10.9 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane water | 100 ml | O1CCOCC1.O
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | N-(tert.-butoxycarbonyl)-2-bromoethylamine | C(C)(C)(C)OC(=O)NCCBr | C7H14BrNO2
